US08012982B2
Step 5: 1-benzyl 4-tert-butyl piperidine-1,4-dicarboxylate
To a solution of 1-[(benzyloxy)carbonyl]piperidine-4-carboxylic acid in DCM (0.2 M), 3 eq of tert-butyl. N,N′-diisopropylimidocarbamate were added and the mixture was stirred at RT. After 30 min, a further 1.5 eq of tert-butyl N,N′-diisopropylimidocarbamate were added and the solution stirred for an additional hour. The solution was filtered through a pad of celite and then through a pad of silica gel to give the product (83%); MS (ES+) m/z 320 (M+H)+

reactant | 1-[(benzyloxy)carbonyl]piperidine-4-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | N,N′-diisopropylimidocarbamate | C(C)(C)NC([O-])=NC(C)C
reactant | tert-butyl N,N′-diisopropylimidocarbamate | 1.5 eq | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
solvent | DCM | 0.2 M | C(Cl)Cl | CH2Cl2
product | 1-benzyl 4-tert-butyl piperidine-1,4-dicarboxylate | 83% | N1(CCC(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H25NO4
